US09428456B2
(2.001d): [3-(4-Chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid I-1
A solution of 1-[3-(4-chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid ethyl ester (1.65 g, 4.12 mmol) in a mixture of THF (20 mL) water (10 mL) and MeOH (10 mL) is treated with lithium hydroxide monohydrate (190 mg, 4.53 mmol) at RT for 2 h. Aq. 2N HCl (2.3 mL) is added and the resulting solution is lyophilized to yield the crude title compound (1.41 g) containing one equivalent LiCl. LC-MS A: tR=0.64 min; [M+H]+=372.93.

reactant | 1-[3-(4-chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid ethyl ester | 4.12 mmol, 1.65 g | C(C)OC(=O)C1CCN(CC1)CC1=CC(=CC=C1)NC(C1=CC=C(C=C1)Cl)=O | C22H25ClN2O3
reactant | lithium hydroxide monohydrate | 4.53 mmol, 190 mg | O.[OH-].[Li+]
reactant | HCl | 2N, 2.3 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | [3-(4-Chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid | 1.41 g | ClC1=CC=C(C(=O)NC=2C=C(CN3CCC(CC3)C(=O)O)C=CC2)C=C1 | C20H21ClN2O3
